US06441017B1
Step C: 1-(4-Cyano-3-fluorophenyl)ethanol
To a solution of 4-cyano-3-fluorobenzaldehyde, as described above in Step B, (250 mg, 1.68 mmol) in THF, under argon, at −78° C. was added MeMgBr dropwise (0.59 mL of a 3.0 M solution in Et2O, 1.77 mmol). The reaction mixture was stirred at −78° C. for 1 hour, then quenched with saturated aqueous NH4Cl, allowed to warm to ambient temperature, and extracted with CH2Cl2 (2×40 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with a gradient of hexane—20% to 40% EtOAc, to yield the titled product as a white solid.

reactant | 4-cyano-3-fluorobenzaldehyde | C(#N)C1=C(C=C(C=O)C=C1)F | C8H4FNO
reactant | MeMgBr | C[Mg+].[Br-]
solvent | THF | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 1-(4-Cyano-3-fluorophenyl)ethanol | C(#N)C1=C(C=C(C=C1)C(C)O)F | C9H8FNO
